US07037905B2
2-(3,5-Dichlorophenyl)-[1,3,6,2]dioxazaborocane
The title compound (94%, crystals) was prepared from 3,5-dichlorophenylboronic acid and diethanolamin.

reactant | 3,5-dichlorophenylboronic acid | ClC=1C=C(C=C(C1)Cl)B(O)O | C6H5BCl2O2
reactant | diethanolamin | N(CCO)CCO | C4H11NO2
product | 2-(3,5-Dichlorophenyl)-[1,3,6,2]dioxazaborocane | 94% | ClC=1C=C(C=C(C1)Cl)B1OCCNCCO1 | C10H12BCl2NO2
